US09382188B2
step 1) ethyl 3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)-5-hydroxypentanoate
Under a nitrogen atmosphere, a solution (1.1 M, 5.2 mL) of tetrahydrofuran-borane in THF was added to a solution of ethyl 3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)pent-4-enoate (1.44 g) in THF (25 mL) at 0° C., and the mixture was stirred at room temperature for 2 hr. To the reaction mixture were added aqueous sodium acetate solution (3.0 M, 25 mL) and aqueous hydrogen peroxide (30%, 4.4 mL) at 0° C., and the mixture was stirred at room temperature for 14 hr. To the reaction mixture was added 1N hydrochloric acid at 0° C., the mixture was extracted with ethyl acetate. The extract was washed with water, saturated aqueous sodium hydrogen carbonate solution and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (440 mg) as a colorless oil.

reactant | tetrahydrofuran borane | 1.1 M, 5.2 mL | O1CCCC1.B
reactant | ethyl 3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)pent-4-enoate | 1.44 g | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC=1C=C(C=CC1)C(CC(=O)OCC)C=C)CC(C)(C)C | C32H37FO4
reactant | sodium acetate | 3.0 M, 25 mL | C(C)(=O)[O-].[Na+]
reactant | hydrogen peroxide | 4.4 mL | OO | H2O2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | ethyl 3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)-5-hydroxypentanoate | 440 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC=1C=C(C=CC1)C(CC(=O)OCC)CCO)CC(C)(C)C | C32H39FO5
